US05500453
A solution of 2.07 g of lithium benzyltriethylborate in 50 ml of acetonitrile was added to solution of 5.00 g of diphenyl(p-methylphenacyl)sulfonium (p-toluenesulfonate) in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 2.12 g of diphenyl(p-methylphenacyl)sulfonium-benzyltriethylborate.

reactant | lithium benzyltriethylborate | 2.07 g | C(C1=CC=CC=C1)[B-](CC)(CC)CC.[Li+]
reactant | diphenyl(p-methylphenacyl)sulfonium (p-toluenesulfonate) | 5.00 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C1(=CC=CC=C1)[S+](CC(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | diphenyl(p-methylphenacyl)sulfonium benzyltriethylborate | 2.12 g | C1(=CC=CC=C1)[S+](CC(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1.C(C1=CC=CC=C1)[B-](CC)(CC)CC | InChI=1S/C21H19OS.C13H22B/c1-17-12-14-18(15-13-17)21(22)16-23(19-8-4-2-5-9-19)20-10-6-3-7-11-20;1-4-14(5-2,6-3)12-13-10-8-7-9-11-13/h2-15H,16H2,1H3;7-11H,4-6,12H2,1-3H3/q+1;-1
